US05310897
A solution of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one (0.45 g) in 99.5% ethanol (6 ml) was subjected to hydrogenation at room temperature in the presence of 10% palladium-carbon (90 mg) under atmospheric pressure, followed by filtration to remove the catalyst. The filtrate was evaporated to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-carboxyethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | 0.45 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)OCC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C27H43NO6Si
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 90 mg | [C].[Pd]
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-carboxyethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)O)CC(=O)OC(C)(C)C)=O | C20H37NO6Si
